US07700628B2
Using methods substantially equivalent to those described in example 4-F except that the reaction was heated to 106° C., 2-[4-(piperidin-1-yl)-2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide (200 mg, 0.32 mmol, 44%) was prepared from 2-[4-fluoro-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-benzoylamino]-N-(5-chloropyridin-2-yl)benzamide and piperidine.

reactant | 2-[4-fluoro-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | FC1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C29H30ClFN4O5
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-[4-(piperidin-1-yl)-2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | 0.32 mmol, 200 mg, 44% | N1(CCCCC1)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C34H40ClN5O5
